US04238589
To a mechanically stirred mixture of 83.2 g benzalacetophenone (0.3 m), 1000 ml methanol and 120 ml 15% hydrogen peroxide was added 100 ml 2 N sodium hydroxide solution, while maintaining the temperature below 30° by external cooling. After completed addition, the mixture was left standing at room temperature for 20 min. The crystalline precipitate was filtered off, washed with water and recrystallized from methanol. There were obtained 59.6 g 1,3-diphenyl-2,3-epoxy-1-propanone; m.p. 90° C.

reactant | benzalacetophenone | 83.2 g | C(C1=CC=CC=C1)=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | hydrogen peroxide | 120 ml | OO | H2O2
reactant | sodium hydroxide | 2 N, 100 ml | [OH-].[Na+]
solvent | methanol | 1000 ml | CO | CH4O
product | 1,3-diphenyl-2,3-epoxy-1-propanone | 59.6 g | C1(=CC=CC=C1)C(C1C(O1)C1=CC=CC=C1)=O | C15H12O2
